US07785849B2
PDE activity was determined in 50 mM HEPES, pH 7.5, 0.5 mM EDTA, 10 mM MgCl2, and 50 mg/ml BSA in a final assay volume of 100 μl. Each assay contained 50,000 cpm of 3H-labeled cAMP, with unlabeled cAMP added to adjust the desired total substrate concentration. Reactions were performed at 30° C. and were linear for at least 60 minutes. The standard reaction time was set to 15 minutes, and the amount of enzyme was always chosen so that no more than 15% of the substrate was hydrolyzed. Inhibitor studies were done at a cAMP concentration of 1 μM. Inhibitors were dissolved in DMSO, but the final DMSO concentration in the assays never exceeded 1%. Control reactions with DMSO alone were always included. Reactions were stopped by the addition of 25 μl of 0.5 N HCl. For the subsequent dephosphorylation of the AMP, the stopped reactions were neutralized with 20 μl of 1 M Tris base, followed by the addition of 10 μl of alkaline phosphatase (Roche Diagnostics; 1 unit/10 μl). The dephosphorylation reactions were incubated for 15 minutes at 37° C. and were then applied to 1 ml columns of QAE-Sephadex A25 in 30 mM ammonium formiate, pH 6.0. The 3H-adenosine formed as a reaction product was eluted with 1.6 ml of 30 mM ammonium formiate, pH 6.0 and was collected into 3.5 ml of water-soluble scintillation fluid (Packard Ultima Flo). Assays were performed in triplicate, and data were analyzed using the Graph Pad Prism software package.

reactant | EDTA | 0.5 mM, pH 7.5 | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | MgCl2 | 10 mM | [Mg+2].[Cl-].[Cl-]
reactant | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
solvent | HEPES | 50 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | 3H-adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=N)N=CNC12 | C10H13N5O4
